US07863291B2
To (S)-3-(aminomethyl)quinuclidin-3-ol dihydrochloride (0.170 g, 0.742 mmol) in N,N-dimethylformamide (20 mL) was added Cs2CO3 (0.604 g, 1.854 mmol) and 4-isothiocyanato-6-phenoxypyrimidine (0.17 g, 0.742 mmol). The suspension was stirred at room temperature for 30 minutes. N,N′-diisopropylcarbodiimide (0.347 mL, 2.225 mmol) was then added and the mixture was continued to stir at room temperature for 18 hours. The mixture was concentrated and purified by silica gel chromatography (5-25% 9:1 methanol:ammonium hydroxide-ethyl acetate) to afford (R)—N-(6-phenoxypyrimidin-4-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine (0.21 g, 0.72 mmol, 48.2% yield) as a pale yellow solid. 1H NMR (500 MHz, MeOD) δ ppm 8.43 (1 H, s), 7.47 (2 H, t), 7.30 (1 H, t), 7.16 (2 H, d), 6.21 (1 H, br. s.), 4.03 (1 H, d), 3.72 (1 H, d), 3.22 (1 H, d), 3.11 (1 H, d), 2.73-2.99 (4 H, m), 2.00-2.18 (2 H, m), 1.54-1.88 (3 H, m). LCMS R.T.=1.46; [M+H]+=352.19.

reactant | (S)-3-(aminomethyl)quinuclidin-3-ol dihydrochloride | 0.742 mmol, 0.170 g | Cl.Cl.NC[C@@]1(CN2CCC1CC2)O
reactant | Cs2CO3 | 1.854 mmol, 0.604 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-isothiocyanato-6-phenoxypyrimidine | 0.742 mmol, 0.17 g | N(=C=S)C1=NC=NC(=C1)OC1=CC=CC=C1 | C11H7N3OS
reactant | N,N′-diisopropylcarbodiimide | 2.225 mmol, 0.347 mL | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | (R)—N-(6-phenoxypyrimidin-4-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine | 0.72 mmol, 0.21 g, 48.2% yield | O(C1=CC=CC=C1)C1=CC(=NC=N1)NC=1O[C@]2(CN3CCC2CC3)CN1 | C19H21N5O2
